US05102891
5-Phenylmethoxy-1-(4-pyridinylamino)-1H-indole
To 250 ml of N-methyl-2-pyrrolidinone was added 5-(phenylmethoxy)-1H-indole-1-amine (29.7 g) and the solution was heated to 80° C. Then 4-chloropyridine hydrochloride (20.55 g) was added portionwise and the mixture was stirred for three hours, cooled, poured into water, basified with aqueous sodium carbonate and extracted with toluene. The organic/aqueous mixture was filtered to yield a solid (39 g), which was triturated with ether to yield a solid (27 g). Of this material, 3.0 g was eluted with 5% methanol/dichloromethane on a silica gel column via HPLC. The desired fractions were concentrated to yield a solid, 2.5 g, m.p. 143°-145° C.

reactant | N-methyl-2-pyrrolidinone | 250 ml | CN1C(CCC1)=O | C5H9NO
reactant | 5-(phenylmethoxy)-1H-indole-1-amine | 29.7 g | C1(=CC=CC=C1)COC=1C=C2C=CN(C2=CC1)N | C15H14N2O
reactant | 4-chloropyridine hydrochloride | 20.55 g | Cl.ClC1=CC=NC=C1
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | O | H2O
product | 5-Phenylmethoxy-1-(4-pyridinylamino)-1H-indole | 39 g | C1(=CC=CC=C1)COC=1C=C2C=CN(C2=CC1)NC1=CC=NC=C1 | C20H17N3O
